US06168838A
9-Fluoro-7-(6-hexyloxypyrid-3-yl)-2-octyloxyphenanthrene
From 7-bromo-9-fluoro-2-octyloxyphenanthrene by reaction with 6-hexyloxypyridine-3-boronic acid, sodium carbonate and tetrakis(triphenylphosphine)palladium(0) in toluene/ethanol/H2O.

reactant | 7-bromo-9-fluoro-2-octyloxyphenanthrene | BrC1=CC=C2C=3C=CC(=CC3C=C(C2=C1)F)OCCCCCCCC | C22H24BrFO
reactant | 6-hexyloxypyridine-3-boronic acid | C(CCCCC)OC1=CC=C(C=N1)B(O)O | C11H18BNO3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene ethanol H2O | C1(=CC=CC=C1)C.C(C)O.O
catalyst | tetrakis(triphenylphosphine)palladium(0) | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 9-Fluoro-7-(6-hexyloxypyrid-3-yl)-2-octyloxyphenanthrene | FC=1C2=CC(=CC=C2C=2C=CC(=CC2C1)OCCCCCCCC)C=1C=NC(=CC1)OCCCCCC | C33H40FNO2
